US04894386
3-Methoxy-N-(2-methylphenylsulfonyl)-4-[1-propyl-5-[2-(propylcarbamoyl)propyl]indol-3-ylmethyl]benzamide
Palladium on carbon (10% w/w, 0.1 g) was added to a solution of E-4-[1-allyl-5-[2-(propylcarbamoyl)-1-propenyl]indol-3-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide (0.24 g) in ethanol (10 ml). The mixture was vigorously stirred and hydrogenated at atmospheric pressure for 4 hr. The catalyst was removed by filtration through diatomaceous earth, the filter pad washed with ethanol, and the filtrate evaporated. The white foam obtained was precipitated from a mixture of ethanol and 1M hydrochloric acid to give the title compound (0.2 g, 82%) as a white powder; mp 104°-110° (softens at 84°).

reactant | E-4-[1-allyl-5-[2-(propylcarbamoyl)-1-propenyl]indol-3-ylmethyl]-3-methoxy-N-(2-methylphenylsulfonyl)benzamide | 0.24 g | C(C=C)N1C=C(C2=CC(=CC=C12)\C=C(/C)\C(NCCC)=O)CC1=C(C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=C1)OC | C34H37N3O5S
catalyst | Palladium on carbon | 0.1 g | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Methoxy-N-(2-methylphenylsulfonyl)-4-[1-propyl-5-[2-(propylcarbamoyl)propyl]indol-3-ylmethyl]benzamide | 0.2 g, 82% | COC=1C=C(C(=O)NS(=O)(=O)C2=C(C=CC=C2)C)C=CC1CC1=CN(C2=CC=C(C=C12)CC(C)C(NCCC)=O)CCC | C34H41N3O5S
